US05438136
Step C: N-(t-Butoxycarbonyl)-2-bromobenzylamine
To a slurry of 8.88 g (39.9 mmol) of 2-bromobenzylamine hydrochloride in 100 mL of dry methylene chloride under a nitrogen atmosphere was added by syringe 12.24 mL (87.80 mmol) of triethylamine. The resulting solution was stirred at 0° C. for five minutes then treated with 9.6 g (44 mmol) of di-t-butyldicarbonate. The reaction was stirred at room temperature for two hours then diluted with 350 mL of methylene chloride. The solution was washed with water (2×150 mL), saturated aqueous ammonium chloride (150 mL), saturated aqueous sodium bicarbonate (4×150 mL) and saturated aqueous sodium chloride (150 mL), dried over sodium sulfate and filtered. The solvent was removed under vacuum to give an oil which was crystallized by dissolving in hot hexanes, filtering and cooling the solution. The product was filtered and dried under vacuum to afford 8.66 g (90%) of the product as a white solid (mp 51°-53° C.). 1H NMR (200 MHz, CDCl3 ): δ1.41 (s, 9H), 4.37 (d, 5 Hz, 2H), 5.00 (s, 1H), 7.10 (m, 1H), 7.25 (m, 1H), 7.35 (m, 1H), 7.40 (d, 6 Hz, 1H). FAB-MS: calculated for C12H16BrNO2 285; found 286 (M+H),

reactant | 2-bromobenzylamine hydrochloride | 39.9 mmol, 8.88 g | Cl.BrC1=C(CN)C=CC=C1
reactant | triethylamine | 87.80 mmol, 12.24 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 44 mmol, 9.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
product | N-(t-Butoxycarbonyl)-2-bromobenzylamine | 8.66 g, 90% | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)Br | C12H16BrNO2
